US04217305
A mixture of 27.5 g of 3-ethoxy-4-(2-bromoethoxy)benzyl alcohol and 53.5 g of benzylamine was heated to 130°-135° C. for 1.5 hours with stirring. After cooling the reaction mixture, 300 ml of ethyl acetate was added therein and the mixture was washed twice each time with 50 ml of water, dried with anhydrous sodium sulfate and distilled under reduced pressure to provide an orange oily product. To the product was added 50 ml of acetone to form crystals, which were recovered by filtration under suction to provide 22.5 g of N-benzyl-2-(2-ethoxy-4-hydroxymethylphenoxy)ethylamine having a melting point of 164°-167° C.

reactant | 3-ethoxy-4-(2-bromoethoxy)benzyl alcohol | 27.5 g | C(C)OC=1C=C(CO)C=CC1OCCBr | C11H15BrO3
reactant | benzylamine | 53.5 g | C(C1=CC=CC=C1)N | C7H9N
reactant | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | N-benzyl-2-(2-ethoxy-4-hydroxymethylphenoxy)ethylamine | 22.5 g | C(C1=CC=CC=C1)NCCOC1=C(C=C(C=C1)CO)OCC | C18H23NO3
